US08084448B2
C. 5-[2-Hydroxy-4-(2-hydroxyhexyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 5-[2-benzyloxy-4-(3-butyloxiranyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one (110 mg) and Pd(OH)2 (11 mg) in EtOAc (5 mL) is hydrogenated at 1 atm for 48 h. The catalyst is filtered and the filtrate evaporated. The residue is purified by preparative HPLC to give the title compound: (M−1)−=327; HPLC retention time=0.93 min (method A).

reactant | 5-[2-benzyloxy-4-(3-butyloxiranyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 110 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C1OC1CCCC)N1CC(NS1(=O)=O)=O | C21H24N2O5S
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OH)2 | 11 mg | [OH-].[OH-].[Pd+2]
product | 5-[2-Hydroxy-4-(2-hydroxyhexyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CC(CCCC)O)N1CC(NS1(=O)=O)=O | C14H20N2O5S
